US05521103
Preparation of 9-phenoxycarbonyl-10-carboxyethylacridinium bromide
A mixture of phenyl acridine-9-carboxylate (100 mg) and t-butyl 3-iodopropionate (5 g) is stirred and heated at 130° C. for sixteen hours. The resulting solution is poured into benzene (25 ml) and the resulting precipitate isolated by filtration. Part of this precipitate (10 mg) is stirred with 33% hydrobromic acid in acetic acid (1 ml), and heated at 50° C. for two hours. The reaction mixture is poured into water, and the resulting precipitate (ca. 6 mg) isolated.

reactant | phenyl acridine-9-carboxylate | 100 mg | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)OC1=CC=CC=C1 | C20H13NO2
reactant | t-butyl 3-iodopropionate | 5 g | ICCC(=O)OC(C)(C)C | C7H13IO2
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 9-phenoxycarbonyl-10-carboxyethylacridinium bromide | ca. 6 mg | [Br-].O(C1=CC=CC=C1)C(=O)C=1C2=CC=CC=C2[N+](=C2C=CC=CC12)CCC(=O)O | InChI=1S/C23H17NO4.BrH/c25-21(26)14-15-24-19-12-6-4-10-17(19)22(18-11-5-7-13-20(18)24)23(27)28-16-8-2-1-3-9-16;/h1-13H,14-15H2;1H
